US04658065
Polymerization was carried out by using the continuous polymerization device as shown in FIG. 3. First, into a 300 ml of polymerization tank 1 having a stirring means and a reflux condenser was charged 200 g of 12-tungstophosphoric acid having a coordinated water number of 3.5 (H3PW12O40.3.5H2O). 150 g of a monomer mixture containing THF and 1.8 wt. % of 1,4-butane diol was added thereto, and the mixture was stirred. By setting the polymerization tank temperature at 60° C., stirring was continued in a nitrogen atmosphere for 4 hours and feeding of a mixture containing THF and 1.8 wt. % of 1,4-butane diol was commenced at the rate of 32 ml/Hr. The reaction was carried out while circulating the liquid from the lower layer in the phase separation tank 2 to the reaction tank and removing the upper layer after phase separation by allowing it to overflow. From the upper layer liquid overflown, unreacted THF was removed by distillation to obtain PTMG. Substantially no unreacted 1,4-butane diol was detected. After continuous running for 100 hours, 850 g of PTMG having a number average molecular weight of 1750 was obtained.

reactant | water | O | H2O
reactant | 1,4-butane diol | C(CCCO)O | C4H10O2
solvent | THF | C1CCOC1 | C4H8O
product | PTMG | CCCCO[C@@H](CC)CO | C8H18O2
